Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female with hx. dementia, IDDM presenting with c/o 
AMS.  
History gathered mostly from daughter who is at the bedside. 
 
Per daughter, patient has mild dementia at baseline (oriented 
x2) but has had progressive decline over last several months, 
will often exhibit odd behavior including opening the door in 
the middle of the night, making food at odd hours. For the last 
week she has been more confused/forgetful. This morning, patient 
was noticed to have an unwitnessed fall. Her grandson left her 
sitting on the couch in the living room and went to his bedroom 
for <5mins, returned and saw her sitting on her side on the 
floor, awake and alert. Grandson did not hear a thud, thinks she 
most likely just slid off the couch but it was unwitnessed. 
Patient was awake/alert and only complaining of hip pain at the 
time, which she has chronically. Patient herself has no 
recollection of this event. Denies headstrike, denies any loss 
or continence, tongue biting or shaking of her extremities.  

The grandson was worried about her blood sugar as she has had 
several lows (in the ___ over the last week, but it was in the 
200s. Patient and family deny and recent fevers or chills, chest 
pain, dyspnea, headache, n/v/diarrhea, or other acute symptoms. 
Family does think she is not eating like she used to. 

Pt says that she lives with her daughter and is independent with 
some ADLs. She used to use a cane, but feels that she does not 
need one, although she also mentions that she is unstable when 
she walks at baseline. 

In the ED initial vitals were: 98.3 113 135/70 18 98%. Patient 
was noted to have a Tm of 100.4.  
- Labs were significant for chem-7 with gluc 371, otherwise 
normal, normal CBC, initial lactate 3.8 (1.6 on recheck after 1L 
fluids).  
CT head/c and l spine were negative for acute process.  
- Patient was given 1L fluids.  
 
On the floor, patient complained of ___ bilateral lower back 
pain, located lateral to her L spine to the nightfloat intern, 
and on repeat exam in the morning, of only slight left hip pain 
on my visit. She said these symptoms have been going on for 
'years' but worse over the last few days. Denies any other 
complaints.  

Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
HOME SERVICES for insulin administration 
DIABETES MELLITUS  
DIABETIC RETINOPATHY mild nonproliferative diabetic retinopathy 
___ with blot hems ___ last seen in ___ 
ATROPHIC VAGINITIS  
RIGHT HIP PAIN  
BACK PAIN  
CATARACT  
CERVICAL POLYP  
HEADACHE  
HEALTH MAINTENANCE  
HEARING DEFICIT, RIGHT EAR  
LEIOMYOMATA UTERI  
NEVUS  
S/P HEPATITIS VACCINATION  
SHOULDER PAIN  
H/O POSITIVE PPD  
 
Social History:
___
Family History:
Brother with DM, age ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals - 99.2 135/70 hr 79 16 96% RA  
GENERAL: awake, alert, oriented to person, place, ___, obama  

HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,  
patent nares, MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably  
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no  
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
NEURO: CN II-XII intact, strength ___ in UE and ___ b/l  
MSK: mildly positive straight leg raise on right, negative on 
left  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:  

VS - 
GENERAL: awake, alert, oriented to person, place (knows we are 
in a hospital, doesn't recall the name), self corrects year from 
___ to ___ without prompting
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably  
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no  
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no edema, no groin 
pain with rolling of lower extremities, bilateral lateral hip 
pain unchanged with palpation   
SKIN: warm and well perfused

 
Pertinent Results:
LABS ON ADMISSION:

___ 12:45PM BLOOD WBC-9.0 RBC-4.09* Hgb-12.4 Hct-37.8 
MCV-92 MCH-30.4 MCHC-32.9 RDW-14.0 Plt ___
___ 12:45PM BLOOD Neuts-72.9* ___ Monos-5.7 Eos-0.2 
Baso-0.3
___ 12:45PM BLOOD ___ PTT-29.4 ___
___ 12:45PM BLOOD Plt ___
___ 12:45PM BLOOD Glucose-371* UreaN-11 Creat-0.8 Na-138 
K-3.9 Cl-101 HCO3-23 AnGap-18
___ 12:45PM BLOOD ALT-10 AST-9 AlkPhos-78
___ 12:45PM BLOOD Albumin-3.9 Calcium-9.5
___ 12:59PM BLOOD Lactate-3.8*
___ 07:06PM BLOOD Lactate-1.6
___ 04:15PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 04:15PM URINE Color-Yellow Appear-Clear Sp ___

LABS ON DISCHARGE:
[insert here] TSH PENDING AND Mg repleted on ___

___ 07:55AM BLOOD WBC-6.7 RBC-3.99* Hgb-11.4* Hct-36.7 
MCV-92 MCH-28.6 MCHC-31.1 RDW-13.9 Plt ___
___ 07:55AM BLOOD Plt ___
___ 07:55AM BLOOD Glucose-160* UreaN-11 Creat-0.7 Na-140 
K-3.7 Cl-102 HCO3-28 AnGap-14
___ 07:55AM BLOOD Calcium-9.2 Phos-3.2 Mg-1.5*

MICROBIOLOGY:
___ 4:15 pm URINE
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
___ 12:45 pm BLOOD CULTURE
   Blood Culture, Routine (Pending): (No growth by ___ 

IMAGING:
___ MRI C SPINE: [insert here]

___ Imaging CHEST (PA & LAT)   Lung volumes are reduced 
compared to the prior exam. Patchy opacities in the lung bases 
likely reflect atelectasis. Infection is not completely excluded 
in the correct clinical setting.  

___-SPINE W/O CONTRAST  Widening of the 
atlantodental interval may be seen in nontraumatic conditions 
such as rheumatoid arthritis. Lack of any associated soft tissue 
swelling argues against the presence of traumatic injury. 
However, in the absence of rheumatoid arthritis atlantoaxial 
instability should be considered and in MRI may be obtained.  

___ Imaging CT L-SPINE W/O CONTRAST  
1. No acute fracture or dislocation. 
2. Mild grade 1 L4 on L5, likely degenerative in etiology, with 
moderate 
central canal narrowing. 
3. Small calcified uterine fibroid. 

___ Imaging CT HEAD W/O CONTRAST  No evidence of acute 
intracranial abnormality.  

 
Brief Hospital Course:
HOSPITAL COURSE: ___ year old former ___ from ___ with hx. 
dementia, IDDM brought in by her daughter, with whom she lives, 
with c/o AMS and s/p unwitnessed fall at home, with negative 
infectious and trauma evaluation, with a diagnosis of likely 
worsening dementia and baseline instability with ambulation, 
with possible contributions from decreased PO intake over the 
past week, episodes of hypoglycemia, and chronic DJD. 
Complicating her fall was an injury to a cervical spine ligmaent 
causing atlanto axial instability.

ACTIVE ISSUES:
#Atlanto-axial instability. initical C-spine CT revealed 
atlanto-dens widening. An MRI was subsequently unrevealing. 
Plain films of the C-spine in flexion and extension revealed 
mobility of the arch of the atlas relative to the dens, thus 
confirming joint instability. She was seen by neurosurgery who 
recommended immobilization with a cervical collar for 8 weeks, 
and neurosurgical followup at that time.

# AMS: unclear etiology, patient appears to be at baseline 
currently (oriented x2 with mild memory impairment). Worsening 
dementia, hypoglycemia, and infectious etiologies were 
considered. Per outpatient notes has had progressive decline in 
functional status over last several months. Had an isolated 
episode of hypoglycemia to 70 during this hospitalization, but 
was hyperglycemic on presentation. Per family, she also had 
several episodes of hypoglycemia at home in the week prior to 
her admission. +lactate on presentation, resolved with fluids; 
isolated temperature of 100.4 in the ED, but afebrile in 
hospital otherwise, with no obvious infectious source (no 
leukocytosis, UA neg, chest xray w/likely atelectasis, no cough, 
blood and urine cultures negative). AMS likely ___ baseline 
dementia exacerbated by poor PO intake, hypoglycemia at home and 
pain in the setting of chronic DJD. By the time of discharge, 
she was thought to be at baseline mental status.

# Unwitnessed fall: patient with ambulatory deficits at 
baseline, unclear if she fell or slid off her couch. Could be 
exacerbated by worsening in mental status or worsening of DJD. 
EKG with low voltages, no signs ACS, relatively unchanged from 
___. No signs of trauma on head CT or C/L spine. Exam findings 
were reassuring and her low back pain/lateral hip pain appears 
chronic, likely related to DJD. Her pain was treated with 
tylenol and she was evaluated by ___, who recommended 
rehabilitation. A rigid cervical collar was placed on day of 
discharge.

# IDDM: Poorly controlled, with dementia likely complicating her 
ability to adhere to therapy. Her daughter prepares her dinner, 
but states that her mom uses a lot of sugar and eats noodles at 
breakfast. Seen by Dr. ___ at ___, and last A1C 8.1 
___. At presentation, her blood glucose was elevated, and 
she had an isolated glu of 70 during this hospitalization. Per 
her family, she also had several episodes of hypoglycemia 
(___-90s) at home in the week prior to her admission. She was 
treated in hospital with a low dose of lantus, 5u in the AM (her 
usual dose is 10) + ISS. Oral agents were held. Her AM sugars 
were marginally elevated in the hospital, but she had several 
mid day sugars >250. This was probably because we were holding 
or oral anti-hypoglycemics. 
    By the time of discharge, we recommended a lower dose of 
lantus at home (7U qAM), continuing her metformin, and stopping 
sulfonylurea to avoid hypoglycemia and to simplify her 
medication regimen. However, finding the right balance will be a 
challenge going forward as her dementia progresses and affects 
her ability to care for herself and adhere to therapy. This was 
discussed with her daughter. . 

TRANSITIONAL ISSUES:
-Neurosurgical followup in 8 weeks time with repeat imaging 
(X-rays) of the c-spine
- In light of her decreased oral intake and episodes of 
hypoglycemia both at home and in hospital, we givin a lower dose 
of glargine dose at home (7 units instead of 10) and stopping 
glipizide to avoid hypoglycemia and to simplify her medication 
regimen. Please continue to take metformin as before. Future 
changes may be needed.
-Please continue a diabetic diet and check blood sugar at home. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. GlipiZIDE XL 10 mg PO DAILY 
2. Glargine 10 Units Breakfast
3. MetFORMIN (Glucophage) 850 mg PO BID 

 
Discharge Medications:
1. MetFORMIN (Glucophage) 850 mg PO BID 
2. Glargine 7 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
3. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Dementia
Insulin dependent type 2 diabetes

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
It was pleasure taking care of you. Your family brought you to 
the hospital because they were concerned that you have been more 
confused lately and may have slipped off of the couch at home. 
In the hospital, we found that you did not have any bleeding in 
your head or any fracture as a result of the questionable fall. 
You did, however, have an injury to a ligament in your cervical 
spine, causing instability of a joint. We have put you in a hard 
cervical collar for this. We found you to be at your baseline in 
terms of your mental status. You were seen by the physical 
therapists who recommended that you go to a rehabilitation 
facility to try to improve your stability when walking. 

For your diabetes, please take a LOWER dose of insulin than 
before (7 units glagine instead of 10) and STOP taking 
glipizide. You can CONTINUE to take metformin. These changes are 
intended to prevent your blood sugar from being too low, as they 
had been in the week prior to your hospitalization. Future 
adjustments may be needed depending on your diet, so please 
follow up with your doctor at ___. 
 
Best wishes,
Your ___ Team
 
Followup Instructions:
___